US05037849
2-Isopropylaminocarbonylamino-2-methyl-N-(2-nitroxyethyl)-propionic acid amide
1.9 g. 2-Amino-2-methyl-N-(2-nitroxyethyl)-propionic acid amide is dissolved in 10 ml. ethyl acetate and mixed with 1.1 ml. isopropyl isocyanate while cooling with ice-water to 5° to 10° C. The reaction mixture is stirred for 2 hours at 10° C., filtered off with suction and washed with diethyl ether. There is obtained 1.4 g. of the title compound, i.e. 50% of theory; m.p. 120°-122° C.

reactant | 2-Amino-2-methyl-N-(2-nitroxyethyl)-propionic acid amide | NC(C(=O)NCCO[N+](=O)[O-])(C)C | C6H13N3O4
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Isopropylaminocarbonylamino-2-methyl-N-(2-nitroxyethyl)-propionic acid amide | yield 50% | C(C)(C)NC(=O)NC(C(=O)NCCO[N+](=O)[O-])(C)C | C10H20N4O5
